US04758578
N-(1-Methoxy-2-methylpropylidene)-3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide
A mixture of 2.9 g of 3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide in 11 ml of trimethyl orthoisobutyrate was warmed to about 85° with an oil bath. After 2.5 hours the solution was cooled to room temperature, whereupon a precipitate formed. Hexane (25 ml) was added to insure complete precipitation. The solid was filtered, washed with hexane and vacuum dried (P2O5) to give 3.08 g of solid, m.p. 75°-76°.

reactant | 3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide | 2.9 g | ClC1=C(C=CC=C1)C1=NSC(=N1)S(=O)(=O)N | C8H6ClN3O2S2
reactant | Hexane | 25 ml | CCCCCC | C6H14
reactant | trimethyl orthoisobutyrate | 11 ml | C(C(C)C)(OC)(OC)OC | C7H16O3
product | N-(1-Methoxy-2-methylpropylidene)-3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfonamide | 3.08 g | COC(C(C)C)=NS(=O)(=O)C1=NC(=NS1)C1=C(C=CC=C1)Cl | C13H14ClN3O3S2
